US04933355
2-(Thiomorpholin-4-yl)thiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 1.5 g of ethyl 2-(thiomorpholin-4-yl)thiazole -4-carboxylate, 0.26 g of lithium aluminum hydride and 15 ml of tetrahydrofuran, giving the title compound as a colorless powder.

reactant | ethyl 2-(thiomorpholin-4-yl)thiazole -4-carboxylate | 1.5 g | N1(CCSCC1)C=1SC=C(N1)C(=O)OCC | C10H14N2O2S2
reactant | lithium aluminum hydride | 0.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(Thiomorpholin-4-yl)thiazol-4-ylmethanol | N1(CCSCC1)C=1SC=C(N1)CO | C8H12N2OS2
